US08557836B2
3-(4,5-dihydro-1H-imidazol-2-yl)-3-azaspiro[5,5]undecane hydroiodide (BL-1743).
3-Azaspiro[5,5]undecane (0.38 g, 2 mmol) and 2-methylthio-2-imidazoline hydroiodide (0.44 g, 1.8 mmol) was refluxing in CH3OH overnight, concentrated in vacuo and purified by flash chromatography to give yellow oil (0.26 g, 65% yield). 1H NMR (360 MHz, CDCl3) δ 8.27 (br s, 2H), 3.72 (s, 4H), 3.39 (t, J=5.83 Hz, 4H), 1.50 (t, J=5.94 Hz, 4H), 1.47-1.44 (m, 10H); 13C NMR (90 MHz, CDCl3) δ 159.48, 43.39, 42.73, 36.02, 35.26, 30.83, 26.65, 21.61. 21.49; ESI-MS: Calculated for C13H24IN3 (M−I)+ 222.3, Found: 222.5.

reactant | 3-Azaspiro[5,5]undecane | 2 mmol, 0.38 g | C1CNCCC12CCCCC2 | C10H19N
reactant | 2-methylthio-2-imidazoline hydroiodide | 1.8 mmol, 0.44 g | I.CSC=1NCCN1
solvent | CH3OH | CO | CH4O
product | 3-(4,5-dihydro-1H-imidazol-2-yl)-3-azaspiro[5,5]undecane hydroiodide | 0.26 g, 65% yield | I.N1C(=NCC1)N1CCC2(CC1)CCCCC2 | InChI=1S/C13H23N3.HI/c1-2-4-13(5-3-1)6-10-16(11-7-13)12-14-8-9-15-12;/h1-11H2,(H,14,15);1H
